US09340538B2
4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (3.56 g, 7.5 mmol) (The compound was synthesized according to the procedure as described in WO2010069147A) was reacted with morpholine-3-carboxylic acid hydrochloride (1.26 g, 7.5 mmol) according to the procedure as described in Example 3 to give the title compound as a yellow solid (1.7 g, 43%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 7.5 mmol, 3.56 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 7.5 mmol, 1.26 g | Cl.N1C(COCC1)C(=O)O
product | 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 1.7 g, 43% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H22Cl2N4O5S
